US04035372
To a solution of 150 parts of 4-(diphenylmethyl)piperidine and 99 parts of 4-(dimethylamino)benzoic acid in 4000 parts of dichloromethane is added a solution of 123 parts of N,N1 -methanetetraylbiscyclohexanamine in 1330 parts of dichloromethane. The resultant mixture is stirred for 6 hours, whereupon a further 25 parts of 4-(dimethylamino)benzoic acid and 30 parts of N,N1 -methanetetraylbiscyclohexanamine is introduced and stirring continued thereafter for 24 hours. The reaction mixture is then filtered, and the filtrate is stripped of solvent by vacuum distillation. The residue is taken up in ether; and the ether solution is consecutively washed with 5% hydrochloric acid, water, and 5% ammonium hydroxide, then dried over anhydrous potassium carbonate and finally stripped of solvent by vacuum distillation. The residue is recrystallized from a mixture of benzene and hexane to give 1-[4-(dimethylamino)benzoyl]-4-(diphenylmethyl)piperidine melting at 177°-179°.

reactant | 4-(diphenylmethyl)piperidine | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | 4-(dimethylamino)benzoic acid | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[4-(dimethylamino)benzoyl]-4-(diphenylmethyl)piperidine | CN(C1=CC=C(C(=O)N2CCC(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C | C27H30N2O
